data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5083,5771,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[CH-:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N:21]([CH3:22])[CH:23]2[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,16.323260041293548,-17.76398243506159
3270,3696,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][NH+:13]=[C:14]([CH3:15])[CH3:16]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([CH3:15])([CH3:16])[NH:13][N:12]2[CH3:11],water,298.15,21.87595868043713,-5.488938636442327
1476,1630,[CH3:17][NH:18][C:19](=[O:20])[N-:21][N+:22]([CH3:23])=[N:24][C:25]([CH3:26])=[O:27].[CH3:1][C:2]([CH3:3])=[C:4]([c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:24]([C:25]([CH3:26])=[O:27])[N:22]([CH3:23])[N:21]1[C:19]([NH:18][CH3:17])=[O:20],water,298.15,40.47437750083556,-4.707775505424006
4019,4604,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[O+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:15]([C:16]([CH3:17])=[O:18])([C:19]([CH3:20])=[O:21])[O:14][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,11.365603352023252,-39.8792355034964
4648,5301,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[O:23][C:24]2=[O:25],water,298.15,30.06924416481904,6.014509128831778
1774,1965,[CH3:16][C:17](=[O:18])[c-:19]1[o+:20][c:21](-[c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[o:28][c:29]1=[O:30].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:19]1([C:17]([CH3:16])=[O:18])[O:20][C:21]2([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[O:28][C:29]1=[O:30],water,298.15,23.50374548977944,1.6208889267543318
1780,1971,[CH3:18][O:19][C:20](=[O:21])[C:22]#[N+:23][C-:24]([CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:24]([CH3:25])([C:26](=[O:27])[O:28][CH3:29])[N:23]=[C:22]3[C:20]([O:19][CH3:18])=[O:21],water,298.15,12.06497313984645,-59.44877163698275
3899,4460,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][O-:16])[C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:17](=[O:18])[O:19][CH3:20])[NH:15][O:16]1,water,298.15,23.615207409490928,-5.22845089561582
1788,1979,[CH3:16][C:17](=[O:18])[C-:19]([C:20]#[N:21])[N+:22]([CH3:23])=[CH:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[CH:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:22]([CH3:23])[C:19]2([C:17]([CH3:16])=[O:18])[C:20]#[N:21],water,298.15,26.007535593042952,-1.6067860848320694
2608,2890,[CH3:11][O:12][C:13](=[O:14])[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)=[N+:22]([CH3:23])[C-:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:22]([CH3:23])[C:24]3([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,36.53579137945,-32.65409841666819
99,112,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][NH-:16].[CH3:1][O:2][C:3](=[O:4])[C:5]([F:6])=[C:7]([F:8])[F:9]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]([F:8])([F:9])[NH:16][NH:15][CH:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,10.72607979060974,-31.80484954426671
